US04218236
b. Formation of 5-[1-(2-methylphenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer
A 500 milliliter, 3-neck flask equipped with a magnetic stirrer, thermometer, dry ice condenser/drying tube and inlet from a phosgene (COCl2) tank via a calibrated rotometer was charged with 50 milliliters of ethylacetate which was saturated with phosgene at 20° C. (approximately 0.5 mole of phosgene) and cooled in an ice bath. An additional 50 milliliters of ethylacetate was added and then 6.8 grams of 5-[1-(2-methylphenoxy)ethyl]-2-amino-1,3,4-thiadiazole, (prepared above); a cloudy solution formed, the solution was stirred overnight, and then filtered to remove a small amount of insoluble sediment. The clear solution was topped on a roto-vac at 70° C. to form 8.1 grams of a viscous yellow residue of 5-[1-(2-methylphenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | approximately 0.5 mole | C(=O)(Cl)Cl | CCl2O
reactant | 5-[1-(2-methylphenoxy)ethyl]-2-amino-1,3,4-thiadiazole | 6.8 grams | CC1=C(OC(C)C2=NN=C(S2)N)C=CC=C1 | C11H13N3OS
solvent | ethylacetate | 50 milliliters | C(C)OC(C)=O | C4H8O2
solvent | ethylacetate | 50 milliliters | C(C)OC(C)=O | C4H8O2
product | 5-[1-(2-methylphenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate | 8.1 grams | CC1=C(OC(C)C2=NN=C(S2)N=C=O)C=CC=C1 | C12H11N3O2S
